US05719141
1.05 g of anhydrous potassium carbonate and 0.48 ml of methyliodide are added to a solution of 1.0 g of 3-hydroxyquinoline in 8.5 ml of dimethylformamide and the reaction mixture is stirred at room temperature for 18 h. It is diluted with diethyl ether, the resulting suspension is filtered and the filtrate is concentrated. The crude product is purified by FC over 60 g of silica gel (mobile phase F) to give 3-methoxyquinoline: Rf (A)=0.53.

reactant | potassium carbonate | 1.05 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyliodide | 0.48 ml | CI | CH3I
reactant | 3-hydroxyquinoline | 1.0 g | OC=1C=NC2=CC=CC=C2C1 | C9H7NO
solvent | dimethylformamide | 8.5 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-methoxyquinoline | COC=1C=NC2=CC=CC=C2C1 | C10H9NO
